US05614550
N-[2-t-Butyl-5-(5-cyclohexyl-2-benzyloxymethyl-1-pentenyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1955)
A suspension of 1.36 g (1.87 mmol) of [4-t-butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl]methyltriphenylphosphonium bromide (prepared as described in Preparation 34) in 15 ml of tetrahydrofuran was ice-cooled, and 2.10 ml (2.10 mmol) of a 1.0M tetrahydrofuran solution of sodium hexamethyldisilazide were added dropwise thereto over the course of 3 minutes. After 35 minutes, a solution of 511 mg (1.86 mmol) of 1-benzyloxy-5-cyclohexyl-2-pentanone (prepared as described in Preparation 35) in 5 ml of tetrahydrofuran was added to the mixture. The resulting mixture was stirred for 10 minutes whilst ice-cooling, at room temperature for 35 minutes and finally at 50° C. for 4.5 hours. At the end of this time, the temperature of the reaction mixture was lowered to room temperature, and then a saturated aqueous solution of ammonium chloride was added, in order to stop the reaction. The reaction mixture was then diluted with ethyl acetate and the diluted mixture was washed with water and with a saturated aqueous solution of sodium chloride, in that order. The organic phase was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 100 g of silica gel, using a 1:4 by volume mixture of ethyl acetate and hexane as the eluent, to give 781 mg (yield 65%) of the title compound as a foam-like material.

reactant | [4-t-butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl]methyltriphenylphosphonium bromide | 1.87 mmol, 1.36 g | [Br-].C(C)(C)(C)C1=C(C=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 1-benzyloxy-5-cyclohexyl-2-pentanone | 1.86 mmol, 511 mg | C(C1=CC=CC=C1)OCC(CCCC1CCCCC1)=O | C18H26O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.0M | O1CCCC1 | C4H8O
product | N-[2-t-Butyl-5-(5-cyclohexyl-2-benzyloxymethyl-1-pentenyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 781 mg, yield 65% | C(C)(C)(C)C1=C(C=C(C=C1)C=C(CCCC1CCCCC1)COCC1=CC=CC=C1)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C44H51NO3
